US06316490B1
2-[2-(3-Fluoro-4-methylphenyl)thioethyl]-1-methylpyrrolidine (Method B):
2-(2-Chloroethyl)-1-methylpyrrolidine (1.4 g, 9.48 mmole), 3-fluoro-4-methyoxythiophenol (1.5 g, 9.48 mmole), potassium carbonate (13.1 g, 94.8 mmole) and DMF (20 mL) were combined, yielding 1.90 g (7.03 mmole, 74%) of the desired compound.

reactant | 2-(2-Chloroethyl)-1-methylpyrrolidine | 9.48 mmole, 1.4 g | ClCCC1N(CCC1)C | C7H14ClN
reactant | 3-fluoro-4-methyoxythiophenol | 9.48 mmole, 1.5 g | FC=1C=C(C=CC1OC)S | C7H7FOS
reactant | potassium carbonate | 94.8 mmole, 13.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[2-(3-Fluoro-4-methylphenyl)thioethyl]-1-methylpyrrolidine | 7.03 mmole, 1.90 g, 74% | FC=1C=C(C=CC1C)SCCC1N(CCC1)C | C14H20FNS
